US05380755
4-[2'-Carbomethoxy-4'-(m-chlorophenylmethyloxy)phenoxy]butyronitrile (3)
2-Carbomethoxy-4-(m-chlorophenylmethyloxy)-phenol, 1 gram (3.32 mmoles), was treated with 1 gram potassium carbonate, 0.4 ml 4-bromobutyronitrile, and 70 mg potassium iodide in 18 ml acetonitrile under reflux for 64 hours. Then the mixture was filtered and the filtrate was stripped in vacuo. The residue was chromatographed on silica gel using 1.3 ethyl acetate/hexanes to give 0.97 grams of the title product at 79% yield. Mp 97°-98° C. Elemental analysis. Calculated for C19H18ClNO4 : C 63.42, H 5.04, N 3.89, Cl 9.85; found: C 63.38, H 5.01, N 3.81, Cl 9.77.

reactant | 2-Carbomethoxy-4-(m-chlorophenylmethyloxy)-phenol | C(=O)(OC)C1=C(C=CC(=C1)OCC1=CC(=CC=C1)Cl)O | C15H13ClO4
reactant | potassium carbonate | 1 gram | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobutyronitrile | 0.4 ml | BrCCCC#N | C4H6BrN
reactant | potassium iodide | 70 mg | [I-].[K+]
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
product | 4-[2'-Carbomethoxy-4'-(m-chlorophenylmethyloxy)phenoxy]butyronitrile | 0.97 grams, 79% yield | C(=O)(OC)C1=C(OCCCC#N)C=CC(=C1)OCC1=CC(=CC=C1)Cl | C19H18ClNO4
